US06552047B2
3a. 3-[N-(2-methyl-2-sulfanylpropyl)carbamoyl]propanoic acid
To an ice-cooled suspension of 1-amino-2-methylpropan2-thiol hydrochloride (5.06 g, 35.72 mmol) in methylene chloride (100 mL) was added triethylamine (5.0 mL, 35.87 mmol) followed by succinic anhydride (3.50 g, 34.96 mmol). The resulting clear solution was stirred at 0° C. or 10 minutes, then at room temperature for 2 hours. Evaporation of the volatiles under reduced pressure gave a residue which was partitioned between 2 N hydrochloric acid (100 mL) and ethyl acetate (100 mL). The aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with brine (5 mL), dried over sodium sulfate and evaporated to dryness. The residue was triturated with ether-hexane to afford the title compound as a white solid (6.78 g, 94.4%). Mp. 86-87° C.; 1H NMR (300 MHz, CDCl3): δ1.34 (s, 6H), 1.55(s, 1H), 2.59 (t, J=6.6 Hz, H), 2.70 (t, J=6.6 Hz, 2H), 3.32 (d, J=8.0 Hz, 2), 6.58 (br t, J=5.9 Hz, 1H), 10.73 (br s, 1H); 13C NMR (75 MHz, CDCl3): δ29.57, 29.79, 30.79, 172.50, 176.81; LCMS (m/e): 223 (M+H2O), 206 (M+1).

reactant | 1-amino-2-methylpropan2-thiol hydrochloride | 35.72 mmol, 5.06 g | Cl.NCC(C)(S)C
reactant | triethylamine | 35.87 mmol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | succinic anhydride | 34.96 mmol, 3.50 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-[N-(2-methyl-2-sulfanylpropyl)carbamoyl]propanoic acid | 6.78 g, 94.4% | CC(CNC(=O)CCC(=O)O)(C)S | C8H15NO3S
